US07456164B2
N-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methyl)pyrimidin-4-amine
A solution of 6-chloro-N-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methyl)pyrimidin-4-amine (50 mg, 0.12 mmol) and triethylamine (48.6 μl, 0.35 mmol) in ethanol (2 mL) was hydrogenated for 16 hours at room temperature at 50 psi in the presence of 10% Pd/C (5 mg, 10% w/w). The reaction mixture was filtered through Arbocel® and rinsed with ethanol and water. The filtrate was concentrated in vacuo. The residue was partitioned between ethyl acetate (20 ml) and saturated aqueous sodium carbonate (20 ml). The organic layer was dried over sodium sulphate, filtered and concentrated in vacuo. The crude product was purified by flash chromatography on silica gel eluting with dichloromethane:methanol:ammonia (100:0:0 to 95:5:0.5 by volume) to provide the title compound (9 mg, 20%).

reactant | 6-chloro-N-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methyl)pyrimidin-4-amine | 0.12 mmol, 50 mg | ClC1=CC(=NC=N1)NCC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C23H31ClN4O2
reactant | triethylamine | 0.35 mmol, 48.6 μl | C(C)N(CC)CC | C6H15N
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | Pd/C | 5 mg | [Pd] | Pd
product | N-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methyl)pyrimidin-4-amine | 9 mg, 20% | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CNC1=NC=NC=C1 | C23H32N4O2
